US07893056B2
1,1-Dimethylethyl (3R)-3,4-dimethyl-1-piperazinecarboxylate (2.70 g, 12.6 mmol) in 1N HCl (25 mL) was stirred overnight. Then 4M HCl in 1,4-dioxane (25 mL) was added and the reaction was left to stir overnight. The volatiles were removed in vacuo to provide (2R)-1,2-dimethylpiperazine dihydrochloride as a white solid (2.53 g). LCMS: (M+H)+=115.1.

reactant | 1,1-Dimethylethyl (3R)-3,4-dimethyl-1-piperazinecarboxylate | 12.6 mmol, 2.70 g | C[C@@H]1CN(CCN1C)C(=O)OC(C)(C)C | C11H22N2O2
reactant | HCl | 1N, 25 mL | Cl | ClH
reactant | HCl | 4M | Cl | ClH
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | (2R)-1,2-dimethylpiperazine dihydrochloride | 2.53 g | Cl.Cl.CN1[C@@H](CNCC1)C | InChI=1S/C6H14N2.2ClH/c1-6-5-7-3-4-8(6)2;;/h6-7H,3-5H2,1-2H3;2*1H/t6-;;/m1../s1
